US04666930
A solution of 3.7 g (0.55 mol) of methyl isocyanate in 30 ml of dioxane is added dropwise to 9.8 g (0.05 mol) of 3-hydrazino-2H,3H-1,2-benzisothiazole 1,1-dioxide in 100 ml of dioxane at room temperature. Stirring is continued for 1 hour, after which the product is filtered off under suction. 11.8 g (89% of theory) of 3-methylaminocarbonylhydrazino-1,2-benzisothiazole 1,1-dioxide of melting point 183° C. are obtained. The product can be recrystallized from ethanol.

reactant | methyl isocyanate | 0.55 mol, 3.7 g | CN=C=O | C2H3NO
reactant | 3-hydrazino-2H,3H-1,2-benzisothiazole 1,1-dioxide | 0.05 mol, 9.8 g | N(N)C1NS(C2=C1C=CC=C2)(=O)=O | C7H9N3O2S
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3-methylaminocarbonylhydrazino-1,2-benzisothiazole 1,1-dioxide | 11.8 g, 89% | CNC(=O)NNC1=NS(C2=C1C=CC=C2)(=O)=O | C9H10N4O3S
